US06576643B2
d) 3-Methoxydibenzo[b,f]oxepin-10-one
A solution of 2-(4-methoxy-2-phenoxyphenyl)acetic acid (594 mg, 2.3 mmole) in thionyl chloride (10 mL) was heated at reflux for 30 min, then was concentrated to dryness, and the residue was reconcentrated from toluene. The resulting residue was dissolved in dry CH2Cl2 (3 mL), and the solution was added dropwise at RT to a suspension of AlCl3 (673 mg, 5.06 mmole) in dry CH2Cl2 (4 mL) in a flame-dried flask under argon. After stirring for 2.5 hr, the mixture was diluted with CH2Cl2 (10 mL) and washed sequentially with 1.0 N NaOH and brine. Drying (MgSO4), concentration, and flash chromatography on silica gel (5% EtOAc/hexanes) gave the title compound (264 mg, 48%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ3.80 (s, 3 H), 4.02 (s, 2 H), 6.74-8.08 (m, 7 H).

reactant | 2-(4-methoxy-2-phenoxyphenyl)acetic acid | 2.3 mmole, 594 mg | COC1=CC(=C(C=C1)CC(=O)O)OC1=CC=CC=C1 | C15H14O4
reactant | AlCl3 | 5.06 mmole, 673 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Methoxydibenzo[b,f]oxepin-10-one | 264 mg, 48% | COC=1C=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C1 | C15H12O3
